US04118561
7-(2-Benzothiazolyl)-7H-pyrrolo-[3,2-f]quinazoline-1,3-diamine
To 3.98 g. 7H-pyrrolo[3,2-f]quinazoline-1,3-diamine dissolved in 250 ml. dry dimethylformamide are added, with stirring under nitrogen, 1.15 g. ca. 50% sodium hydride-mineral oil dispersion. After stirring for 1.5 hours, 3.90 g. 2-chlorobenzothiazole are added and the mixture is heated at 95° for 3 hours. An additional 1.29 g. 2-chlorobenzothiazole are added and heating at 95° is continued for 11 hours. A third portion of 2-chlorobenzothiazole (1.29 g.) is added and heating at 95° is continued for 8 hours. The reaction mixture is processed as in Example 69 and the crude product is recrystallized (twice) from dimethylformamide and is thoroughly dried to yield 2.30 g. title compound, m.p. 326° (dec).

reactant | 7H-pyrrolo[3,2-f]quinazoline-1,3-diamine | C=1(N=C(N=C2C=CC3=C(C12)C=CN3)N)N | C10H9N5
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chlorobenzothiazole | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
reactant | 2-chlorobenzothiazole | 1.29 g | ClC=1SC2=C(N1)C=CC=C2 | C7H4ClNS
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 7-(2-Benzothiazolyl)-7H-pyrrolo-[3,2-f]quinazoline-1,3-diamine | S1C(=NC2=C1C=CC=C2)N2C=CC=1C3=C(N=C(N=C3C=CC12)N)N | C17H12N6S
